* EESchema Netlist Version 1.1 (Spice format) creation date: Thu 28 May 2015 11:22:25 AM EDT

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

*Sheet Name:/
IC1  Net-_IC1-Pad1_ ? GND +3.3V GND +3.3V Net-_C5-Pad2_ Net-_C6-Pad2_ Net-_IC1-Pad9_ ? ? ? ? ? Net-_IC1-Pad15_ Net-_IC1-Pad16_ Net-_IC1-Pad17_ +3.3V ? Net-_C4-Pad2_ GND ? ? Net-_IC1-Pad24_ ? ? /TH1 /TH2 Net-_IC1-Pad29_ Net-_IC1-Pad30_ Net-_IC1-Pad31_ ? ATMEGA48A-M		
TH1  GND ? THERMISTOR		
TH2  GND ? THERMISTOR		
R2  /TH1 +3.3V R		
R3  /TH2 +3.3V R		
X1  Net-_C5-Pad2_ Net-_C6-Pad2_ CRYSTAL		
C5  GND Net-_C5-Pad2_ C		
C6  GND Net-_C6-Pad2_ C		
R7  Net-_D3-Pad3_ Net-_R7-Pad2_ 22kR		
R8  Net-_D3-Pad1_ Net-_R8-Pad2_ 22kR		
R1  Net-_R1-Pad1_ Net-_IC1-Pad24_ 4.7kR		
K1  /neutral /live /load CONN_3		
D1  Net-_D1-Pad1_ GND LED		
D2  Net-_D2-Pad1_ GND LED		
R5  Net-_D1-Pad1_ Net-_IC1-Pad1_ R		
R6  Net-_D2-Pad1_ Net-_IC1-Pad9_ R		
R4  Net-_R4-Pad1_ Net-_IC1-Pad16_ R		
R9  /live Net-_C7-Pad2_ R		
P1  Net-_P1-Pad1_ GND CONN_2		
C2  +3.3V GND CP1		
C4  GND Net-_C4-Pad2_ C		
P2  GND /TH1 ? ? /TH2 CONN_5		
U3  /load /live Net-_U2-Pad4_ BTA312Y-600C		
R11  Net-_C8-Pad2_ /live R		
C8  /load Net-_C8-Pad2_ C		
U1  GND +3.3V Net-_P1-Pad1_ NCP1117ST33T3G		
C7  /load Net-_C7-Pad2_ C		
R10  Net-_R10-Pad1_ Net-_C7-Pad2_ R		
D3  Net-_D3-Pad1_ /live Net-_D3-Pad3_ /neutral BRIDGE		
P3  Net-_IC1-Pad31_ Net-_IC1-Pad30_ GND +3.3V CONN_4		
P4  Net-_IC1-Pad16_ Net-_IC1-Pad17_ Net-_IC1-Pad29_ GND Net-_IC1-Pad15_ +3.3V CONN_3X2		
U2  Net-_R4-Pad1_ GND ? Net-_U2-Pad4_ ? Net-_R10-Pad1_ OPTO-TRIAC		
C3  GND +3.3V C		
C1  GND +3.3V C		
R12  +3.3V Net-_D4-Pad1_ R		
D4  Net-_D4-Pad1_ GND LED		
U4  Net-_R1-Pad1_ GND Net-_R8-Pad2_ Net-_R7-Pad2_ OPTO-TRANSISTOR4		
*Sheet Name:/thermistor/

.end
